US04450164
3-Cyanomethyl-2-methyl-8-(phenylpropoxy)-imidazo[1,2-a]pyridine
A mixture of 5.3 g of 2-amino-3-(3-phenylpropoxy)pyridine, 3.2 g of 3-chloro-4-oxopentanonitrile, 2.0 g sodium bicarbonate, and 50 ml dimethoxyethane was heated at reflux for 24 hrs., then stirred at room temperature 66 hrs. the solvent was removed in vacuo, the brown residue was taken up in 100 ml methylene chloride, filtered, dried over potassium carbonate and evaporated in vacuo to leave a brown gum residue. The residue was chromatographed on silica gel using first chloroform, then switching to 1:1 chloroform/ethyl acetate. The early eluates were combinedand evaporated and the resultant residue crystallized from isopropyl/ether to give the title compound (m.p. 143°-145° C.).

reactant | 2-amino-3-(3-phenylpropoxy)pyridine | 5.3 g | NC1=NC=CC=C1OCCCC1=CC=CC=C1 | C14H16N2O
reactant | 3-chloro-4-oxopentanonitrile | 3.2 g | ClC(CC#N)C(C)=O | C5H6ClNO
reactant | sodium bicarbonate | 2.0 g | C([O-])(O)=O.[Na+]
solvent | dimethoxyethane | 50 ml | C(OC)COC | C4H10O2
product | 3-Cyanomethyl-2-methyl-8-(phenylpropoxy)-imidazo[1,2-a]pyridine | C(#N)CC1=C(N=C2N1C=CC=C2OCCCC2=CC=CC=C2)C | C19H19N3O
